US05110956
3-Acetoxy-4-(2-hydroxyethyl)-5-methylisoxazole
7.8 g of 4-(2-hydroxyethyl)-5-methylisoxazol-3-ol was dissolved in 1 l of tetrahydrofuran. 1.70 g of sodium hydride was added to the solution under cooling with ice. The mixture was stirred at room temperature for 30 min and then cooled again with ice. 4.7 g of acetyl chloride was added thereto and the mixture was stirred at room temperature. The solvent was distilled off and water was added to the residue. After extraction with chloroform, the extract was washed with a saturated aqueous common salt solution and dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off and the residue was purified according to silica gel column chromatography (chloroform) to obtain 2.96 g of the intended compound in the form of colorless prismatic crystals.

reactant | 4-(2-hydroxyethyl)-5-methylisoxazol-3-ol | 7.8 g | OCCC=1C(=NOC1C)O | C6H9NO3
reactant | sodium hydride | 1.70 g | [H-].[Na+]
reactant | acetyl chloride | 4.7 g | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
product | 3-Acetoxy-4-(2-hydroxyethyl)-5-methylisoxazole | 2.96 g | C(C)(=O)OC1=NOC(=C1CCO)C | C8H11NO4
